US04767776
1-Hydroxy-6-methoxy-2-naphthalenecarboxylic acid, methyl ester (alternate procedure)
A solution of 10.2 g (0.033 mole) of 1,2,3,4-tetrahydro-2-bromo-6-methoxy-1-oxo-2-naphthalenecarboxylic acid, methyl ester in 100 ml of tetrahydrofuran under a nitrogen atmosphere was treated over 15 minutes with a solution of 10.0 ml (10.2 g; 0.067 mole) of 1,8-diazabicyclo[5.4.0]undec-7-ene in 20 ml of tetrahydrofuran. The mixture was stirred at room temperature for 16 hours, then added to 450 g of ice/water. Acidification with 6.0N hydrochloric acid precipitated the crude naphthalene ester product. The solid was filtered, washed with water, and recrystallized from aqueous methanol to yield 5.1 g (67% yield) of the final product, mp 109°-111°. This material was identical with that prepared by the procedure described in Example 11.

reactant | 1,2,3,4-tetrahydro-2-bromo-6-methoxy-1-oxo-2-naphthalenecarboxylic acid, methyl ester | 0.033 mole, 10.2 g | BrC1(C(C2=CC=C(C=C2CC1)OC)=O)C(=O)OC | C13H13BrO4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.067 mole, 10.0 ml, 10.2 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-Hydroxy-6-methoxy-2-naphthalenecarboxylic acid, methyl ester | 5.1 g, 67% yield | OC1=C(C=CC2=CC(=CC=C12)OC)C(=O)OC | C13H12O4
